* Subcircuit mahima_6t_ram
.subckt mahima_6t_ram wl bl blb q 
* /home/mahimagoyen1996/esim-2.3/library/subcircuitlibrary/mahima_6t_ram/mahima_6t_ram.cir
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m3 net-_m3-pad1_ q net-_m2-pad1_ net-_m3-pad1_ CMOSP W=180 L=180 M=1
m5 net-_m3-pad1_ net-_m2-pad1_ q net-_m3-pad1_ CMOSP W=180 L=180 M=1
m2 net-_m2-pad1_ q gnd gnd CMOSN W=360 L=180 M=1
m4 q net-_m2-pad1_ gnd gnd CMOSN W=360 L=180 M=1
m1 q wl bl gnd CMOSN W=360 L=180 M=1
v3  bl gnd pulse(0 1.8 1u 1p 1p 1u 2u)
v2  wl gnd pulse(0 1.8 0 1p 1p 5u 10u)
v1 net-_m3-pad1_ gnd  dc 1.8
m6 blb wl net-_m2-pad1_ gnd CMOSN W=360 L=180 M=1
v4  blb gnd pulse(0 1.8 0 1p 1p 1u 2u)
* Control Statements

.ends mahima_6t_ram